US05744425
6. 4-Methyl-5-nitrosaccharin
104 ml of 25 percent ammonia solution are initially taken, 100 ml of water are added and a solution of 48.7 g (0.166 mol) of 2-methoxycarbonyl-3-methyl-4-nitrobenzenesulfonyl chloride in 70 ml of tetrahydrofuran is then added dropwise at 10° C. After stirring at 25° C. for three hours, water and THF are largely removed and the residue which remains is stirred with ethyl acetate, filtered off with suction and washed with ethyl acetate. After drying under reduced pressure, 34 g (0.131 mol)=79% of theory of a white solid of m.p.: 312° C. (dec.) are obtained.

reactant | ammonia | 104 ml | N | H3N
reactant | water | 100 ml | O | H2O
reactant | 2-methoxycarbonyl-3-methyl-4-nitrobenzenesulfonyl chloride | 0.166 mol, 48.7 g | COC(=O)C1=C(C=CC(=C1C)[N+](=O)[O-])S(=O)(=O)Cl | C9H8ClNO6S
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 4-Methyl-5-nitrosaccharin | CC1=C2C(NS(=O)(=O)C2=CC=C1[N+](=O)[O-])=O | C8H6N2O5S
